US06680317B2
N-(2,3-Dichlorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]thiourea
Following the general procedure for protected phenyl thiourea formation outlined in example 1, N-(2,3-dichlorophenyl)-N′-[4-chloro-2-hydroxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]thiourea (898 mg, 1.81 mmol), tert-butyldimethylsilyl chloride (1.4 g, 9.05 mmol) and imidazole (246 mg, 3.62 mmol) were reacted to form the desired product (546 mg, 49%). EI-MS m/z 611.81 (M+).

reactant | phenyl thiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | N-(2,3-dichlorophenyl)-N′-[4-chloro-2-hydroxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]thiourea | 1.81 mmol, 898 mg | ClC1=C(C=CC=C1Cl)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)NC1NOCC1)O | C16H15Cl3N4O4S2
reactant | tert-butyldimethylsilyl chloride | 9.05 mmol, 1.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 3.62 mmol, 246 mg | N1C=NC=C1 | C3H4N2
product | N-(2,3-Dichlorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]thiourea | 546 mg, 49% | ClC1=C(C=CC=C1Cl)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)NC1NOCC1)O[Si](C)(C)C(C)(C)C | C22H29Cl3N4O4S2Si
